US07745449B2
Step (e): N-cyclopropyl-3-(7-(3-fluoro-2-methoxyphenyl)thieno[2,3-d]pyridazin-2-yl)-4-methylbenzamide
A mixture of 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide (90 mg, 0.26 mmol), 3-fluoro-2-methoxyphenylboronic acid (67 mg, 0.39 mmol), Pd(PPh3)2Cl2 (18 mg, 0.03 mmol), and sodium carbonate (83 mg, 0.78 mmol) in a mixture of DME, ethanol and H2O (7:2:3, 2 ml) was heated to 150° C. for 15 min in the Emrys Optimizer® microwave. The mixture was diluted with MeOH and concentrated over SiO2. Column chromatography (MeOH/CH2Cl2=0→2%) afforded the desired product. Yield: 59 mg. MS (ESI, pos. ion) m/z: 434 (M+1).

reactant | 3-(7-chlorothieno[2,3-d]pyridazin-2-yl)-N-cyclopropyl-4-methylbenzamide | 0.26 mmol, 90 mg | ClC=1N=NC=C2C1SC(=C2)C=2C=C(C(=O)NC1CC1)C=CC2C | C17H14ClN3OS
reactant | 3-fluoro-2-methoxyphenylboronic acid | 0.39 mmol, 67 mg | FC=1C(=C(C=CC1)B(O)O)OC | C7H8BFO3
reactant | sodium carbonate | 0.78 mmol, 83 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | DME | COCCOC | C4H10O2
solvent | MeOH | CO | CH4O
catalyst | Pd(PPh3)2Cl2 | 0.03 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 2 ml | O | H2O
product | N-cyclopropyl-3-(7-(3-fluoro-2-methoxyphenyl)thieno[2,3-d]pyridazin-2-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C1=CC=2C(=C(N=NC2)C2=C(C(=CC=C2)F)OC)S1)=O | C24H20FN3O2S
